US09284332B2
2-(4-Nitrophenyl)imidazo[2,1-b]benzothiazol-7-ol, 4-(2-chloroethyl)-morpholine hydrochloride, potassium carbonate, and tetrabutylammonium iodide were added to N,N-dimethylformamide forming a yellow suspension that was heated at a temperature of >50° C. for over 3 hours. The reaction was cooled and the solids were collected, slurried into water, filtered, slurried into acetone, filtered and washed with acetone to give yellow solids that were dried under vacuum to give 7-(2-morpholin-4-yl-ethoxy)-2-(4-nitrophenyl)imidazo[2,1-b]benzothiazole.

reactant | 2-(4-Nitrophenyl)imidazo[2,1-b]benzothiazol-7-ol | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC(=C3)O | C15H9N3O3S
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(2-morpholin-4-yl-ethoxy)-2-(4-nitrophenyl)imidazo[2,1-b]benzothiazole | N1(CCOCC1)CCOC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=C(C=C3)[N+](=O)[O-])C=C1 | C21H20N4O4S
